US05463059
4-[(1,1-Dimethyl-2-propynyl)oxy]benzonitrile
The 1,1-dimethyl-2-propynyl trifluoroacetate solution, maintained at 0° C., was added to the 4-cyanophenol solution over a 40 minute period while keeping the temperature at ~0° C. The resulting mixture was stirred at ~0° C. (ice bath). After stirring for 5 hours, the mixture was concentrated at reduced pressure. The residue was partitioned between water (50 mL) and toluene (300 mL). The organic fraction was washed with 1N HCl (3×50 mL), 1N NaOH (2×50 mL), 1N NaHCO3, and brine. After drying (magnesium sulfate), the solvent was removed at reduced pressure to give crude title compound as a very pale yellow oil. Distillation of the crude material (bulb to bulb) afforded the title compound as a colorless, low melting solid (8.04 g).

reactant | 1,1-dimethyl-2-propynyl trifluoroacetate | FC(C(=O)OC(C#C)(C)C)(F)F | C7H7F3O2
reactant | 4-cyanophenol | C(#N)C1=CC=C(C=C1)O | C7H5NO
product | 4-[(1,1-Dimethyl-2-propynyl)oxy]benzonitrile | CC(C#C)(C)OC1=CC=C(C#N)C=C1 | C12H11NO
